US08044052B2
2-(5-Bromo-2-methylphenoxy)-5-(trifluoromethyl)pyridine
To a solution of 5-bromo-2-methylphenol (1.0 g, 0.005 mol) in DMF (10 mL) was added K2CO3 (1.38 g, 0.01 mol) at RT. 2-Chloro-5-(trifluoromethyl)pyridine (908 mg, 0.005 mol) was added and the reaction was refluxed at 110° C. for 12 h. The reaction mixture was quenched with water and extracted with EtOAc three times. The organic extract was washed with water and brine, dried over sodium sulfate and concentrated under reduced pressure to give the title compound (1.5 g, 88%). 1H NMR (500 MHz, CDCl3): δ 8.42 (s, 1H), 7.92 (d, J=2.15 Hz, 1H), 7.32 (t, J=6.45 1H), 7.23 (d, J=1.5 Hz, 1H), 7.17 (d, J=8.05 Hz, 1H), 7.03 (d, J=8.65 Hz, 1H), 2.12 (s, 3H).

reactant | 5-bromo-2-methylphenol | 0.005 mol, 1.0 g | BrC=1C=CC(=C(C1)O)C | C7H7BrO
reactant | K2CO3 | 0.01 mol, 1.38 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-5-(trifluoromethyl)pyridine | 0.005 mol, 908 mg | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(5-Bromo-2-methylphenoxy)-5-(trifluoromethyl)pyridine | 1.5 g, 88% | BrC=1C=CC(=C(OC2=NC=C(C=C2)C(F)(F)F)C1)C | C13H9BrF3NO
